US08008307B2
Step c: rel-(1R,2R)-1-amino-N,N-dimethylindane-2-carboxamide
To a stirred solution of tert-butyl rel-{(1R,2R)-2-[(dimethylamino)carbonyl]-2,3-dihydro-1H-inden-1-yl}carbamate (690 mg, 2.15 mmol) in DCM (25.0 mL) was added zinc dibromide (970 mg, 4.31 mmol) and ethanol (0.25 mL, 4.31 mmol), and the mixture was stirred for 18 h. The reaction mixture was quenched by addition of water (20.0 mL) and the resulting mixture was stirred for 2 h. To this mixture was added 1.00 M NaOH (30.0 mL) and extracted with DCM (3×100 mL). The organic layers were combined, dried over MgSO4, filtered, and evaporated under vacuum. The residue was purified by flash chromatography (10 to 30% Methanol/DCM) to afford the title compound (438 mg, 95%) as a colorless oil. LC/MS: Rt=0.89 min, ES+ 205.2 (AA standard).

reactant | tert-butyl rel-{(1R,2R)-2-[(dimethylamino)carbonyl]-2,3-dihydro-1H-inden-1-yl}carbamate | 2.15 mmol, 690 mg | CN(C(=O)[C@H]1[C@H](C2=CC=CC=C2C1)NC(OC(C)(C)C)=O)C | C17H24N2O3
reactant | ethanol | 4.31 mmol, 0.25 mL | C(C)O | C2H6O
solvent | DCM | 25.0 mL | C(Cl)Cl | CH2Cl2
catalyst | zinc dibromide | 4.31 mmol, 970 mg | [Br-].[Br-].[Zn+2]
product | rel-(1R,2R)-1-amino-N,N-dimethylindane-2-carboxamide | 438 mg, 95% | N[C@@H]1[C@@H](CC2=CC=CC=C12)C(=O)N(C)C | C12H16N2O
